US08557805B2
2-Ethenyl-4-fluoro-1-nitrobenzene
Methyltriphenylphosphonium bromide (12.7 g) was dissolved in dry tetrahydrofuran (200 mL) and ice-cooled. To this solution was added dropwise 1.6M-butyllithium hexane solution (22.0 mL). After the completion of the dropwise addition, the mixture was stirred under ice-cooling for 40 min and 5-fluoro-2-nitrobenzaldehyde (5.0 g) was added to the reaction solution. This solution was warmed to room temperature, and was stirred for 3 hr. To the reaction solution was added aqueous citric acid solution, and tetrahydrofuran was evaporated under reduced pressure. The residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=1:4, volume ratio) to give the title compound (3.7 g, yield 75%) as a brown oil.

reactant | butyllithium hexane | 22.0 mL | CCCCCC.C(CCC)[Li]
reactant | 5-fluoro-2-nitrobenzaldehyde | 5.0 g | FC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4FNO3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Methyltriphenylphosphonium bromide | 12.7 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-Ethenyl-4-fluoro-1-nitrobenzene | 3.7 g, yield 75% | C(=C)C1=C(C=CC(=C1)F)[N+](=O)[O-] | C8H6FNO2
